US06602884B2
A solution of 630 mg of methyl (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylate, 6-cm3 of dioxane and 3-cm3 of a 1 N aqueous sodium hydroxide solution was heated with stirring at a temperature in the region of 60° C. for 2 hours. 3-cm3 of a 1 N aqueous sodium hydroxide solution were added and the solution was heated for 1 hour at 60° C. After concentrating the reaction mixture under reduced pressure (5 kPa) at a temperature in the region of 40° C., the residue obtained was taken up in 20-cm3 of water and 20-cm3 of diethyl ether. The aqueous phase was separated after settling out and was then acidified by pouring in 6-cm3 of 1 N hydrochloric acid. The white precipitate formed was extracted with 150-cm3 of ethyl acetate. The organic phase was washed twice with 10-cm3 of a saturated aqueous sodium chloride solution and dried over magnesium sulfate, filtered, and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 499 mg of (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylic acid were obtained in the form of a white solid.

reactant | methyl (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylate | 630 mg | OC(CCC1C(CN(CC1)CCSC=1SC=CC1)C(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C26H31FN2O4S2
reactant | dioxane | 6-cm3 | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | water | 20-cm3 | O | H2O
solvent | diethyl ether | 20-cm3 | C(C)OCC | C4H10O
product | (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylic acid | 499 mg | OC(CCC1C(CN(CC1)CCSC=1SC=CC1)C(=O)O)C1=C(C=NC2=CC=C(C=C12)OC)F | C25H29FN2O4S2
